US05635527
t-Butyl 4-(5-cyanofuro[2,3-b]pyridine-2-carbonylamino)phenoxy-acetate (430 mg, 1.10 mmol) was dissolved in a mixed solvent of pyridine (16 ml) and triethylamine (4 ml), and a hydrogen sulfide gas was blown in for 10 minutes. The mixture was stirred at room temperature for 18 hours. The solvent was distilled away from the reaction mixture under reduced pressure to give t-butyl 4-(5-thiocarbamoylfuro[2,3-b]pyridine-2-carbonylamino)phenoxyacetate as a yellow solid. This solid was dissolved in acetone (15 ml) and methyl iodide (1.0 ml) was added, which was followed by refluxing under heating for 1.5 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure to give t-butyl 4-[5-[(1-methylthio)iminomethyl]furo[2,3-b]pyridine-2-carbonylamino]phenoxy-acetate as a yellow solid. Methanol (15 ml) and ammonium acetate (150 mg, 1.95 mmol) were added and the mixture was refluxed under heating for 2 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was purified by silica gel (Chromatorex, NH type, Fuji Silysia Chemical) column chromatography (chloroform/methanol=5/1) to give 35 mg of compound (238) as a yellow solid (11% in 3 steps).

reactant | t-Butyl 4-(5-cyanofuro[2,3-b]pyridine-2-carbonylamino)phenoxy-acetate | 1.10 mmol, 430 mg | C(#N)C=1C=C2C(=NC1)OC(=C2)C(=O)NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2 | C21H19N3O5
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | t-butyl 4-(5-thiocarbamoylfuro[2,3-b]pyridine-2-carbonylamino)phenoxyacetate | C(N)(=S)C=1C=C2C(=NC1)OC(=C2)C(=O)NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2 | C21H21N3O5S
